Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
R facial droop
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year-old R-handed F w/ PMH of HTN, HLD, DMII, and
GERD who presents for new facial weakness. Hx obtained from pt
and daughter at bedside. 

Pt reports LKW was last night before going to bed. This morning,
she woke up around 6am and upon looking in the mirror she noted
her R facies to be drooping compared to L. Out of concern for
this new finding, she presented to ___ ED for further
evaluation. Since arriving to see pt a few hours ago, daughter
also remarked that her's mother speech also seemed slightly
slurred, or that it wasn't at baseline. 

Pt denies any associated eyelid heaviness, difficulty closing
eye, facial numbness, visual changes, weakness/numbness in
extremities, gait difficulties, lightheadedness, vertigo, or
headache. No recent CP, SOB, palpitations, or changes in
medication/medical history. Denies any prior hx of stroke and is
unaware of strokes in her family hx. States her chronic medical
conditions have been relatively controlled recently. Pt only
otherwise remarks that she developed some burning pain at base 
of
R neck yesterday while at a birthday party after turning her 
head
to the right, with symptoms resolving a few minutes later after
she turned her head forward again. This phenomenon has not
occurred in the past and has not occurred since. 

 
Past Medical History:
HTN
HLD
DMII
GERD
 
Social History:
___
Family History:
Daughter-Multiple ___ CA, ___ 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Speech
was slightly dysarthric. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. Slight esotropia of 
R
eye with difficulty buring R eye on R gaze. Otherwise, EOMI
without nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: Mild R lower facial droop, actives symmetrically b/l
volitionally and emotionally.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
or  proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   trace
R  2  2    2    1   trace
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

DISCHARGE PHYSICAL EXAM:
Non-focal
 
Pertinent Results:
___ 06:55AM BLOOD WBC-5.1 RBC-4.47 Hgb-8.8* Hct-27.7* 
MCV-62* MCH-19.7* MCHC-31.8* RDW-18.6* RDWSD-40.1 Plt ___
___ 11:15AM BLOOD WBC-6.6 RBC-4.66 Hgb-9.2* Hct-29.2* 
MCV-63* MCH-19.7* MCHC-31.5* RDW-19.1* RDWSD-40.8 Plt ___
___ 06:55AM BLOOD ___ PTT-22.9* ___
___ 11:15AM BLOOD ___ PTT-23.8* ___
___ 06:55AM BLOOD Glucose-113* UreaN-22* Creat-0.8 Na-140 
K-4.4 Cl-102 HCO3-26 AnGap-16
___ 11:15AM BLOOD Glucose-102* UreaN-28* Creat-0.9 Na-140 
K-4.5 Cl-104 HCO3-23 AnGap-18
___ 06:55AM BLOOD ALT-8 AST-18 LD(LDH)-173 CK(CPK)-56 
AlkPhos-60 TotBili-0.3
___ 11:15AM BLOOD ALT-9 AST-17 AlkPhos-74 TotBili-0.2
___ 06:55AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 06:55AM BLOOD TotProt-6.5 Albumin-3.8 Globuln-2.7 
Cholest-PND
___ 11:15AM BLOOD Albumin-4.0 Calcium-9.5 Phos-3.3 Mg-1.5*
___ 06:55AM BLOOD %HbA1c-6.7* eAG-146*
___ 06:55AM BLOOD CRP-1.7
___ 11:15AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
Ms. ___ presented to ___ and was hospitalized under 
Stroke Service due to new right facial droop concerning for a 
stroke in setting of her cardiovascular risk factors. On 
Neurology floor, she was monitored on telemetry and blood 
pressure was allowed to autoregulate. She underwent laboratory 
workup for stroke risk factors and MRI which did not show clear 
stroke. Due to concern for treatment failure while on Aspirin, 
she was switched to Plavix. She received Echo prior to 
discharge. She was discharged home due to appearing clinically 
stable.

Transition Issues:
-Pt will need to stop taking Aspirin and start taking Plavix
-Pt will need to follow up with her PCP in near future
 
Medications on Admission:
Invokana 100mg daily
Metformin 1g BID
Glipizde BID
Lisinopril 40mg daily
HCTZ 12.5mg daily
Simvastatin 40mg daily
ASA 81mg daily
PPI
 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
2.  Invokana (canagliflozin) 100 mg oral DAILY  
3.  GlipiZIDE 5 mg PO BID  
4.  Hydrochlorothiazide 12.5 mg PO DAILY  
5.  Lisinopril 40 mg PO DAILY  
6.  MetFORMIN (Glucophage) 1000 mg PO BID  
7.  Omeprazole 20 mg PO BID  
8.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Ischemic Attack

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized at ___ due to right facial droop 
concerning for a new stroke. You were evaluated by the Stroke 
Service and underwent appropriate laboratory and radiologic 
workup including MRI which did not show stroke. Your facial 
droop resolved over admission suggestive of transient cerebral 
ischemia. Due to appearing clinically stable, you will be 
discharged home.

Please switch from taking Aspirin to taking Plavix 75mg daily. 
Please continue your other home medications.

Please follow up with your primary care provider ___ ___ 
weeks for post-hospitalization evaluation. Please obtain 
Echocardiogram as an outpatient. Please ___ to 
arrange for this imaging.

It was a pleasure taking care of you!

Sincerely,
___ Neurology Team
 
Followup Instructions:
___